datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:63]([NH:12][C:11](C1=CCCC2=CC=CC=C21)=[CH2:10])=[O:64]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11](C2=CCCC3=CC=CC=C32)=[NH+:12][C:63](C)=[O:64])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1C[C:11](=[CH2:10])C1.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>C[C:22](=[CH:21][CH:20]([CH2:10][C+:11]1CCC1)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1.OC[C@@H]1CCC[NH:10]1>>C[O:21][CH:20]([NH+:10]1CCC[C@H]1CO)[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CCC[C:11]1([H:10])CC[CH:13]=[CH:12]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[H:10])=[CH:22]1.CCC[C:11]1=[CH:12][CH+:13]CC1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C2=CC=CC=C2)=[O:64])C=C1.O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1>>O=[N+]([O-])C1=CC=C([N:31]=[C:20]([CH2:10][C:11](C2=CC=CC=C2)=[NH+:12][C:63](C2=CC=CC=C2)=[O:64])[S-:21])C=C1 10,11=10,20;12=11,12;20,21=21"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[N:12]1CC[N:62](C)[C:11]1=[NH:10]>>C[N+:12]1=[C:11]([NH:10][CH:20]([C:21]2=[C:22](C)[N:23](C)C3=C2C=CC=C3)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)[N:62](C)CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.C1C[C:18]2=[C:19]3[C:68](=[CH:67][C:16]([CH:15]=[C:14]4[CH:10]=[CH:11][CH:12]=[CH:13]4)=[CH:17]2)CCC[N:220]3C1>>C1CC[N:21]([CH:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[C:14]2[CH:15]=[C:16]2[CH:17]=[C:18]3CCC[N+:220]4=[C:19]3[C:68](=[CH:67]2)CCC4)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16;18,19=17,18;20,21=21;220=19,220"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.[CH:10]1([Li:11])[CH:61]=[CH:62][C:72]2=[C:71]1[CH:73]=[CH:74][CH:75]=[CH:76]2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:73]=[CH:74][CH:75]=[CH:76]3)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.[Li+:11] 10,11=10,20"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si:63]1(C)CCCC[CH:11]([H:10])[CH2:62]1>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].C[Si:63]1(C)CCCC[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.N#CC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>N#CC1=CC=C([S:61]([CH:10](Cl)[C:20]([O-:21])=[N:31]C2=CC=CC=C2)(=[O:62])=[O:72])C=C1 10=20;20,21=21"
"C[C:63]([NH:12][C:11](C1=CC=CC=C1)=[CH2:10])=[O:64].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1>>C[C:63]([NH+:12]=[C:11](C1=CC=CC=C1)[CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[O:64] 10,11=10,20;12=11,12"
F[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92].[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>F[C:10]1([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92] 10=20
"C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1.[O:10]=[C:11]1[C:12](=[N+:13]([O-:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]1>>C1=CC=C(C[O:33][C:22](=[N:21][N:20]([O:10][C:11]2=[C:12]([N+:13](=[O:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]2)[C:41](=[O:42])[O:43]CC2=CC=CC=C2)[O-:23])C=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCCC2[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
COC[C@@H]1CCC[NH:10]1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>COC[C@@H]1CCC[NH+:10]1[C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1 10=20
